US06255496B1
N-[2-(4-formylphenoxy)ethyl]-N-methylcarbamic acid, 1,1-dimethylethyl ester
A solution of N-(2-hydroxyethyl)-N-methylcarbamic acid, 1,1-dimethylethyl ester (7.05 g, 40.2 mmol; W. S. Saari and all, J. Med. Chem. 33, 97 (1990)), 4-hydroxybenzaldehyde (3.75 g, 30.7 mmol) and triphenylphosphine (10.57 g, 40.3 mmol) in dry benzene (120 ml) was cooled to 15° C. and treated with diisopropyl azodicarboxylate (8.15 g, 40.3 mmol) in dry benzene (20 ml) added dropwise over 20 min. After 16 h at 22° C., and chromatography on silica gel (elution toluene-ethyl acetate 9:1-8:2) gave 4.40 g (52%) of the title material as white cubes: mp 62-65° C. (ether-hexane).

reactant | N-(2-hydroxyethyl)-N-methylcarbamic acid, 1,1-dimethylethyl ester | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
reactant | 4-hydroxybenzaldehyde | 30.7 mmol, 3.75 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | triphenylphosphine | 40.3 mmol, 10.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 40.3 mmol, 8.15 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-formylphenoxy)ethyl]-N-methylcarbamic acid, 1,1-dimethylethyl ester | 4.40 g, 52% | C(=O)C1=CC=C(OCCN(C(OC(C)(C)C)=O)C)C=C1 | C15H21NO4
